US08084620B2
Step 2 A solution of 5-(2-fluorophenyl)-3-hydroxy-2,3,4,9-tetrahydro-1H-carbazole-8-carboxylic acid (0.069 g, 0.213 mmol) in DMF (1.07 mL) was treated with ammonium chloride (0.023 g, 0.427 mmol), HOAT (0.058 g, 0.427 mmol), EDC (0.082 g, 0.427 mmol) and DIEA (0.149 mL, 0.853 mmol) and stirred over a weekend. The mixture was diluted with DCM, washed with 5% hydrochloric acid, NaHCO3 (aq), brine and 10% aqueous lithium chloride, dried and concentrated to give 5-(2-fluorophenyl)-3-hydroxy-2,3,4,9-tetrahydro-1H-carbazole-8-carboxamide as a light yellow foam (0.045 g, 65%). Mass spectrum m/z 325.1 (M+H)+.

reactant | 5-(2-fluorophenyl)-3-hydroxy-2,3,4,9-tetrahydro-1H-carbazole-8-carboxylic acid | 0.213 mmol, 0.069 g | FC1=C(C=CC=C1)C1=C2C=3CC(CCC3NC2=C(C=C1)C(=O)O)O | C19H16FNO3
reactant | ammonium chloride | 0.427 mmol, 0.023 g | [Cl-].[NH4+]
reactant | HOAT | 0.427 mmol, 0.058 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDC | 0.427 mmol, 0.082 g
reactant | DIEA | 0.853 mmol, 0.149 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1.07 mL | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 5-(2-fluorophenyl)-3-hydroxy-2,3,4,9-tetrahydro-1H-carbazole-8-carboxamide | 0.045 g, 65% | FC1=C(C=CC=C1)C1=C2C=3CC(CCC3NC2=C(C=C1)C(=O)N)O | C19H17FN2O2
